US06111111
Ethyl cyanoformate(21.4 g, 0.216 mol) and 3-methylfuran-2-carbaldehyde-N-phenylimine(10.0 g, 54.1 mmol) were mixed at room temperature in xylene (50 mL) then heated to reflux at 120 to 140° C. with stirring. A xylene (30 mL) solution of 11.7 g (0.108 mol) of ethyl chloroformate was added dropwise for an hour to the resulting mixture. After all the solution had been added, the reaction mixture was heated to reflux for 2 hours, it was allowed to cool to room temperature, and the solvent was distilled off to give 14.0 g of crude product. This product was purified by column chromatography on silica gel, giving 5.40 g (52.3% yield) of 5-ethoxycarbonylfuro[2,3-c]pyridine.

reactant | Ethyl cyanoformate | 0.216 mol, 21.4 g | C(#N)C(=O)OCC | C4H5NO2
reactant | 3-methylfuran-2-carbaldehyde-N-phenylimine | 54.1 mmol, 10.0 g | C1(=CC=CC=C1)N=CC=1OC=CC1C | C12H11NO
reactant | ethyl chloroformate | 0.108 mol, 11.7 g | ClC(=O)OCC | C3H5ClO2
solvent | xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 30 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 5-ethoxycarbonylfuro[2,3-c]pyridine | 5.40 g, 52.3% yield | C(C)OC(=O)C=1C=C2C(=CN1)OC=C2 | C10H9NO3
